.INCLUDE 32nm_MGK.pm
.OPTIONS GMIN=1e-020 ABSTOL=1e-18
.INCLUDE XOR.sub
.INCLUDE INVERTER/INVERTER.sub
.PARAM Lmin=32n
.PARAM Wmin=32n
.PARAM Ldiff=64n
.PARAM SUPPLY=0.9
.global vdd gnd

VDS vdd gnd 'SUPPLY'

*Vin1 Va gnd pulse 0 'SUPPLY' 0ns 1ps 1ps 1000ps 2000ps
*Vin2 Vb gnd dc 0

*Vin1 Va gnd dc 0
*Vin2 Vb gnd pulse 0 'SUPPLY' 0ns 1ps 1ps 1000ps 2000ps

X1 Va Vb Vout vdd gnd XOR

Cqload Vout gnd 1f

.tran 0.1ps 3600ps

*.measure tran delay_LH TRIG v(Va) VAL = 'SUPPLY/2' FALL =1 TARG v(Vout) VAL = 'SUPPLY/2' FALL =1 
*.measure tran delay_HL TRIG v(Va) VAL = 'SUPPLY/2' RISE =1 TARG v(Vout) VAL = 'SUPPLY/2' RISE=1

*.measure tran delay_LH TRIG v(Vb) VAL = 'SUPPLY/2' FALL =1 TARG v(Vout) VAL = 'SUPPLY/2' FALL =1 
*.measure tran delay_HL TRIG v(Vb) VAL = 'SUPPLY/2' RISE =1 TARG v(Vout) VAL = 'SUPPLY/2' RISE=1

.CONTROL
dc TEMP 85 85 85
run
*print V(Va) V(Vb) V(Vout)
quit
.ENDC
.END